US06977262B2
Ethyl 4,7-dihydro-4-(indan-4-yl)-6-propyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate
The title compound was prepared from indan-4-aldehyde, 3-aminopyrazole and ethyl 3-ketohexanoate in the same manner as in Example 1.

reactant | indan-4-aldehyde | C1CCC=2C(=CC=CC12)C=O | C10H10O
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | ethyl 3-ketohexanoate | O=C(CC(=O)OCC)CCC | C8H14O3
product | Ethyl 4,7-dihydro-4-(indan-4-yl)-6-propyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | C1CCC2=C(C=CC=C12)C1C=2C(NC(=C1C(=O)OCC)CCC)=NNC2 | C21H25N3O2
